US05922717
4-[2-[4-(4-Piperidinyl)piperazin-1-yl]-2-hydroxyethyl]-phenoxyacetic acid dihydrochloride
8.5 mg (0.22 mmol) of sodium borohydride are added to a solution of 100 mg (0.22 mmol) of 4-[[4-(4-piperidinyl)-piperazin-1yl]acetyl]phenoxyacetic acid trihydrochloride in 10 ml of methanol and the mixture is stirred overnight. 2 ml of a 0.1N hydrochloric acid are then added and the solution is concentrated to dryness under reduced pressure. The residue is partitioned between saturated sodium chloride solution and ethyl acetate and, after drying over sodium sulphate, the organic phase is concentrated to dryness. Mass spectrum: (M+H)+ =364;

reactant | sodium borohydride | 0.22 mmol, 8.5 mg | [BH4-].[Na+]
reactant | 4-[[4-(4-piperidinyl)-piperazin-1yl]acetyl]phenoxyacetic acid trihydrochloride | 0.22 mmol, 100 mg | Cl.Cl.Cl.N1CCC(CC1)N1CCN(CC1)CC(=O)C1=CC=C(OCC(=O)O)C=C1
reactant | hydrochloric acid | 0.1N | Cl | ClH
reactant | methanol | 10 ml | CO | CH4O
product | 4-[2-[4-(4-Piperidinyl)piperazin-1-yl]-2-hydroxyethyl]-phenoxyacetic acid dihydrochloride | Cl.Cl.N1CCC(CC1)N1CCN(CC1)C(CC1=CC=C(OCC(=O)O)C=C1)O | InChI=1S/C19H29N3O4.2ClH/c23-18(13-15-1-3-17(4-2-15)26-14-19(24)25)22-11-9-21(10-12-22)16-5-7-20-8-6-16;;/h1-4,16,18,20,23H,5-14H2,(H,24,25);2*1H
